US05719166
N-methylformanilide (2.45 kg, 18.12 moles) was treated with phosphorus oxychloride (2.66 kg, 17.35 moles) over a 40 min. period at ambient temperature. The intermediate Vilsmeier complex was stirred for 2 h at room temperature, then treated with 2-chloroanthracene (963 g, 4.53 moles), and o-dichlorobezene (1.0 L). The resulting bright yellow mixture was heated gradually over 1.5 h to 90° C. at which point an exotherm ensued raising the reaction temperature to 115° C. The heat was removed until the exotherm subsided (45 min.), after which time the mixture was heated for 9 h at 90° C., then cooled. TLC analysis [silica gel/ethyl acetate:hexane (1:4)] showed a small amount of unreacted anthracene (Rf =0.90), a small amount of the 3-chloro isomer (Rf =0.65), and the 2-chloro isomer (Rf =0.58) as the major component. The cooled reaction mixture was poured into ice/water (27 L) precipitating a dark brown tar. The aqueous layer was decanted away from the tar and extracted with methylene chloride (5×2 L). The combined extracts were used to redissolve the tar. The methylene chloride solution was washed with 3N hydrochloric acid (4×1.5 L), followed by water (2 L), then dried over magnesium sulfate. The extracts were filtered, then pressure-filtered through a bed of silica gel, eluting with methylene chloride until all of the desired compound had passed through. The eluate was concentrated on the rotary evaporator to give a slurry of bright yellow crystals (in o-dichlorobenzene). The crystals were collected by filtration, washed with diethyl ether (2×500 ml), then vacuum dried to afford 619.7 g (56.9%) of the desired 2-chloro-9-anthraldehyde (mp 148°-150° C.). 1H NMR (CDCl3): δ11.35 (s, 1H), 9.02 (d, J=0.9 Hz, 1H), 8.81 (d, J=8.9 Hz, 1H), 8.56 (s, 1H), 7.98 (m, 1H), 7.90 (d, J=8.9 Hz, 1H), 7.66 (m, 1H), 7.53 (m, 1H), 7.42 (m, 1H).

reactant | N-methylformanilide | 18.12 moles, 2.45 kg | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorus oxychloride | 17.35 moles, 2.66 kg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloroanthracene | 4.53 moles, 963 g | ClC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Cl
solvent | o-dichlorobezene | 1.0 L | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-chloro-9-anthraldehyde | 619.7 g, 56.9% | ClC1=CC2=C(C3=CC=CC=C3C=C2C=C1)C=O | C15H9ClO
